US04865617
Preparation of 5-methoxy-2-methyl-2-propyl-1,3-benzodioxole
A suspension of 50 g of hydrogen-reduced iron powder in 150 ml of ethanol, to which 7 ml of water and 5 ml of acetic acid have been added, is heated under reflux. 0.08 mole (20.3 g) of 5-methoxy-6-nitro-2-methyl-2-propyl-1,3-benzodioxole is added portionwise. Heating is continued for 30 minutes after the end of the addition. The reaction mixture is filtered while boiling. 25 ml of a 7N solution of hydrochloric acid is added to the filtrate.

reactant | water | 7 ml | O | H2O
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | 5-methoxy-6-nitro-2-methyl-2-propyl-1,3-benzodioxole | 0.08 mole, 20.3 g | COC1=CC2=C(OC(O2)(CCC)C)C=C1[N+](=O)[O-] | C12H15NO5
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-methoxy-2-methyl-2-propyl-1,3-benzodioxole | COC1=CC2=C(OC(O2)(CCC)C)C=C1 | C12H16O3
